US04374829
N-(1-Carboxyethyl)-L-alanyl-L-proline
Dissolve 0.75 g of N-(1-carbobenzoxyethyl)-L-alanine in pyridine and add 7.5 ml of 1 M triethylamine in pyridine. Cool, and add 1.09 g L-proline benzyl ester hydrochloride and 0.678 g dicyclohexylcarbodiimide. Store at 0° C. for 20 hours. Filter, then concentrate the reaction mixture in vacuo. Dissolve the residue in ethyl acetate and wash this solution with saturated K2CO3, then brine. Dry the organic phase, concentrate in vacuo, then chromatograph the residue on silica gel with ethyl acetate-hexane to isolate the diastereoisomeric mixture of N-(1-carbobenzoxyethyl)-L-alanyl-L-proline.

reactant | N-(1-carbobenzoxyethyl)-L-alanine | 0.75 g | C(=O)(OCC1=CC=CC=C1)C(C)N[C@@H](C)C(=O)O | C13H17NO4
reactant | L-proline benzyl ester hydrochloride | 1.09 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | dicyclohexylcarbodiimide | 0.678 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-(1-carbobenzoxyethyl)-L-alanyl-L-proline | C(=O)(OCC1=CC=CC=C1)C(C)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C18H24N2O5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 1 M, 7.5 ml | C(C)N(CC)CC | C6H15N
product | N-(1-Carboxyethyl)-L-alanyl-L-proline | C(=O)(O)C(C)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C11H18N2O5
